### PR TITLE
monads are lax functors

### PR DESCRIPTION
**Pull request by 4e554c4c**
I noticed this on the [nlab](https://ncatlab.org/nlab/show/monad#Etymology) and it sounded fun to write down.
Really it'd be nice to do this using displayed bicategories with a displayed bicategory of monads over a base bicategory $$\mathsf{S}$$.

# Description

* A few facts about the terminal category
* The terminal bicategory
* Monads are equivalent to lax functors from said bicategory

## Checklist

Before submitting a merge request, please check the items below:

- [x] I've read [the contributing guidelines](https://github.com/plt-amy/1lab/blob/main/CONTRIBUTING.md).
- [x] The imports of new modules have been sorted with `support/sort-imports.hs` (or `nix run --experimental-features nix-command -f . sort-imports`).
- [x] All new code blocks have "agda" as their language.

If your change affects many files without adding substantial content, and
you don't want your name to appear on those pages (for example, treewide
refactorings or reformattings), start the commit message and PR title with `chore:`.

### CODE REVIEW

**Comment by Lavenza** [comment]
[Pull request preview](https://preview.1lab.dev/460)
##### New pages

  * [Cat.Bi.Diagram.Monad.Lax](https://preview.1lab.dev/460/Cat.Bi.Diagram.Monad.Lax.html) (+70, -0)
  * [Cat.Bi.Instances.Terminal](https://preview.1lab.dev/460/Cat.Bi.Instances.Terminal.html) (+35, -0)
  * [Cat.Instances.Shape.Terminal.Properties](https://preview.1lab.dev/460/Cat.Instances.Shape.Terminal.Properties.html) (+30, -0)
##### Changed pages

  * [Cat.Bi.Base](https://preview.1lab.dev/460/Cat.Bi.Base.html) (+7, -5)
  * [Cat.Instances.Shape.Terminal](https://preview.1lab.dev/460/Cat.Instances.Shape.Terminal.html) (+3, -0)
  * [Cat.Functor.Naturality](https://preview.1lab.dev/460/Cat.Functor.Naturality.html) (+0, -1)

**Comment by 4e554c4c** [comment]
a quick note: to say that monads *are* lax functors (i.e. with a path) we would need some kind of `Monad-path` and `lax-functor-path` lemmas... which don't really seem to be possible with the current state of **tri**-category theory in 1lab.
happy to add them tho lol

File: src/Cat/Bi/Diagram/Monad/Lax.lagda.md [hunk 1]
```diff
@@ -0,0 +1,70 @@
...
+
+  module monad where
+    M = P₁.F₀ _
+    μ = γ→ _ _
+    η = unitor
+    μ-assoc =
+      μ ∘ M ▶ μ                           ≡⟨ (Hom.intror $ ap (λ nt → nt .nt-η (M , M , M)) associator.invl) ⟩
+      (μ ∘ M ▶ μ) ∘ (α→ M M M ∘ α← M M M) ≡⟨ cat! (Hom s s) ⟩
+      (μ ∘ M ▶ μ ∘ α→ M M M) ∘ α← M M M   ≡˘⟨ hexagon _ _ _ Hom.⟩∘⟨refl ⟩
+      (P₁.F₁ _ ∘ μ ∘ μ ◀ M) ∘ α← M M M   ≡⟨ ( P₁.F-id Hom.⟩∘⟨refl) Hom.⟩∘⟨refl  ⟩
```
Comment (ncfavier) [inline src/Cat/Bi/Diagram/Monad/Lax.lagda.md:65]:
```suggestion
      (P₁.F₁ _ ∘ μ ∘ μ ◀ M) ∘ α← M M M    ≡⟨ ( P₁.F-id Hom.⟩∘⟨refl) Hom.⟩∘⟨refl  ⟩
```

File: src/Cat/Bi/Instances/Terminal.lagda.md [hunk 2]
```diff
@@ -0,0 +1,35 @@
...
+
+import Cat.Reasoning
+```
+-->
+
+```agda
+module Cat.Bi.Instances.Terminal where
+```
+
+# The Terminal Bicategory
```
Comment (ncfavier) [inline src/Cat/Bi/Instances/Terminal.lagda.md:17]:
```suggestion
# The terminal bicategory
```

File: src/Cat/Bi/Instances/Terminal.lagda.md [hunk 3]
```diff
@@ -0,0 +1,35 @@
...
+
+The **terminal bicategory** is the category with a single object, and a trivial
```
Comment (ncfavier) [inline src/Cat/Bi/Instances/Terminal.lagda.md:19]:
```suggestion
The **terminal bicategory** is the bicategory with a single object, and a trivial
```

File: src/Cat/Bi/Instances/Terminal.lagda.md [hunk 4]
```diff
@@ -0,0 +1,35 @@
...
+category of morphisms.
+
+```agda
+open Prebicategory
+
+⊤Catᵇ : Prebicategory lzero lzero lzero
+⊤Catᵇ .Ob = ⊤
+⊤Catᵇ .Hom x x₁ = ⊤Cat
```
Comment (ncfavier) [inline src/Cat/Bi/Instances/Terminal.lagda.md:27]:
```suggestion
⊤Catᵇ .Hom x y = ⊤Cat
```

or `_ _`

File: src/Cat/Bi/Instances/Terminal.lagda.md [hunk 5]
```diff
@@ -0,0 +1,35 @@
...
+
+# The Terminal Bicategory
+
+The **terminal bicategory** is the category with a single object, and a trivial
+category of morphisms.
+
+```agda
+open Prebicategory
+
+⊤Catᵇ : Prebicategory lzero lzero lzero
```
Comment (ncfavier) [inline src/Cat/Bi/Instances/Terminal.lagda.md:25]: How about `⊤Bicat`?

File: src/Cat/Instances/Shape/Terminal/Properties.lagda.md [hunk 6]
```diff
@@ -0,0 +1,30 @@
...
+```
+-->
+
+```agda
+module Cat.Instances.Shape.Terminal.Properties where
+```
+
+# Properties
+
+We note that the [[terminal category]] is a unit to the categorial product.
```
Comment (ncfavier) [inline src/Cat/Instances/Shape/Terminal/Properties.lagda.md:17]:
```suggestion
We note that the [[terminal category]] is a unit to the categorical product.
```

File: src/Cat/Instances/Shape/Terminal/Properties.lagda.md [hunk 7]
```diff
@@ -0,0 +1,30 @@
...
+
+```agda
+⊤Cat-unit : ∀ {o h} {C : Precategory o h} → ⊤Cat ×ᶜ C ≡ C
+⊤Cat-unit = sym $ Precategory-path Cat⟨ !F , Id ⟩ Cat⟨!F,Id⟩-is-iso where
+  open is-precat-iso
+  open is-iso
+  Cat⟨!F,Id⟩-is-iso : is-precat-iso Cat⟨ !F , Id ⟩
+  Cat⟨!F,Id⟩-is-iso .has-is-ff .is-eqv (tt  , f) .centre = f , refl
+  Cat⟨!F,Id⟩-is-iso .has-is-iso .is-eqv (tt , a) .centre = a , refl
+  -- basically id-equiv with a `.snd` projection
```
Comment (ncfavier) [inline src/Cat/Instances/Shape/Terminal/Properties.lagda.md:27]: If this is important enough to mention it in the prose, do so, otherwise remove it

File: src/Cat/Instances/Shape/Terminal/Properties.lagda.md [hunk 8]
```diff
@@ -0,0 +1,30 @@
...
+
+We note that the [[terminal category]] is a unit to the categorial product.
+
+```agda
+⊤Cat-unit : ∀ {o h} {C : Precategory o h} → ⊤Cat ×ᶜ C ≡ C
+⊤Cat-unit = sym $ Precategory-path Cat⟨ !F , Id ⟩ Cat⟨!F,Id⟩-is-iso where
+  open is-precat-iso
+  open is-iso
+  Cat⟨!F,Id⟩-is-iso : is-precat-iso Cat⟨ !F , Id ⟩
+  Cat⟨!F,Id⟩-is-iso .has-is-ff .is-eqv (tt  , f) .centre = f , refl
```
Comment (ncfavier) [inline src/Cat/Instances/Shape/Terminal/Properties.lagda.md:25]:
```suggestion
  Cat⟨!F,Id⟩-is-iso .has-is-ff .is-eqv (tt , f) .centre = f , refl
```

or put a space before `.is-eqv` if you must

File: src/Cat/Bi/Diagram/Monad/Lax.lagda.md
Comment (ncfavier) [inline src/Cat/Bi/Diagram/Monad/Lax.lagda.md:1]: This page feels a bit short on prose. Maybe spell out at least what happens to the object and 1-morphism.

Also, I am not sure we need an entire module for this fact. IMO this could live in `Cat.Bi.Diagram.Monad`, if there are no cycles.

File: src/Cat/Bi/Diagram/Monad/Lax.lagda.md [hunk 9]
```diff
@@ -0,0 +1,70 @@
...
+
+# Monads as lax functors
+
+[[Monads in a bicategory|monad in]]  $\cS$  are equivalent to
+[[lax functors|lax functor]] functors from the terminal bicategory to $\cS$.
+
+```agda
+lax-functor→monad : Σ[ s ∈ S.Ob ] Monad S s → Lax-functor ⊤Catᵇ S
+lax-functor→monad (s , monad) = P where
+  open module monad = Monad monad
```
Comment (ncfavier) [inline src/Cat/Bi/Diagram/Monad/Lax.lagda.md:29]: Why name the module if you're going to open it?

File: src/Cat/Bi/Diagram/Monad/Lax.lagda.md [hunk 10]
```diff
@@ -0,0 +1,70 @@
...
+
+  open Lax-functor
+  open _=>_ renaming (η to nt-η)
+  open Functor
```
Comment (ncfavier) [inline src/Cat/Bi/Diagram/Monad/Lax.lagda.md:33]: Can we have these generic `open`s hidden somewhere at the top of the file?

**Comment by ncfavier** [comment]
> to say that monads _are_ lax functors (i.e. with a path) we would need some kind of `Monad-path` and `lax-functor-path` lemmas... which don't really seem to be possible with the current state of **tri**-category theory in 1lab

Do we need any of that? The automatically generated path lemmas that don't build in any univalence should be enough since all the structure seems to be mapped strictly?

File: src/Cat/Bi/Diagram/Monad/Lax.lagda.md (hunk 10 above)
Comment (4e554c4c) [reply src/Cat/Bi/Diagram/Monad/Lax.lagda.md:33]: I usually prefer to keep them at the lowest scope but sure

Comment (4e554c4c) [reply src/Cat/Bi/Diagram/Monad/Lax.lagda.md:33]: all are moved except `Lax-functor`, which is opened differently below.

File: src/Cat/Bi/Diagram/Monad.lagda.md [hunk 11]
```diff
@@ -142,3 +145,65 @@ module _ {o ℓ} {C : Precategory o ℓ} where
...
+module _ {o ℓ ℓ'} (B : Prebicategory o ℓ ℓ') where
+  private
+    open module B = Prebicategory B
+```
+-->
+# Monads as lax functors
+
+Suppose that we have a [[lax functor]] $P$ from the [[terminal bicategory]] to $\cB$.
+Then $P$ identifies a single object $a=P_0(*)$ as well as a morphism $M:a\to a$
+given by $P\_1(*)$. The composition operation is a natural transformation
```
Comment (ncfavier) [inline src/Cat/Bi/Diagram/Monad.lagda.md:160]:
```suggestion
given by $P_1(\id_*)$. The composition operation is a natural transformation
```

File: src/Cat/Bi/Diagram/Monad.lagda.md [hunk 12]
```diff
@@ -142,3 +145,65 @@ module _ {o ℓ} {C : Precategory o ℓ} where
...
+\[
+P\_1(*)\otimes P\_1(*)\To P\_1(*\otimes *)
+\]
```
Comment (ncfavier) [inline src/Cat/Bi/Diagram/Monad.lagda.md:163]: Ditto + use `$$ $$` for display maths + `\circ` not `\otimes`

Comment (4e554c4c) [reply src/Cat/Bi/Diagram/Monad.lagda.md:163]: keeping `\otimes` since imo it's the correct notion here for now

File: src/Cat/Bi/Diagram/Monad.lagda.md (hunk 11 above)
Comment (ncfavier) [reply src/Cat/Bi/Diagram/Monad.lagda.md]: There's still a bunch of `\_`s left

Comment (4e554c4c) [reply src/Cat/Bi/Diagram/Monad.lagda.md]: o oops

**Comment by 4e554c4c** [comment]
should be fixed now. it's kind of hard without the workflow giving a preview sorry

File: src/Cat/Bi/Diagram/Monad.lagda.md (hunk 12 above)
Comment (ncfavier) [reply src/Cat/Bi/Diagram/Monad.lagda.md]: I still strongly think the $\otimes$ are confusing here, especially since the rest of the page just writes $MM$ and there is no mention of a monoidal category on this page. Either $\circ$ or nothing is fine.

**Review by ncfavier — DISMISSED** [review]

**Review by plt-amy — APPROVED** [review]
